Name:  ___            Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Penicillins / Bactrim / Ceclor / house dust / NSAIDS 
(Non-Steroidal Anti-Inflammatory Drug) / lisinopril
 
Attending: ___.
 
Chief Complaint:
Confusion
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
As per admitting MD:
___ year old female with hx chronic pancreatitis, fibromyalgia,
chronic back pain on opiates, and NIDDM type 2 diabetes 
mellitus,
anxiety, depression w/ recent dx ___ of borderline resectable
pancreatic adenocarcinioma on FOLFOX, c/b recurrent E.coli
bloodstream infections, liver abscess, PE and cervical fracture
recently admitted ___ellulitis and
discharged on ertapenem (completed ___ who presents as
transfer from ___ for AMS x1d.

On history husband reports that at 3am on ___ she was noted 
to
be confused by her daughter, reportedly hallucinating and trying
to walk around and get out of bed. They called her ___ who
referred them to the ED. The note from ___ is not 
viewable.
per husband at ___ she was not oriented to date or time. 

At ___ notable for WBC 12 (9 on discharge ___ and
Hgb 7.4 (at baseline) and plt 105 (slightly below baseline). Her
other labs including LFTs and Cr were not elevated. UA not c/w
for infxn. 

___ notable for CXR w/o active pulm process, CT
Ab/Pelvis with commentary of no acute new process but remarking
on prior Pancreatic head mass/tumor with peripancreatic and
retroperitoneal
lymphadenopathy. Biliary stent in satisfactory position. As well
as constipation/large stool burden. A CT of Head is 
unremarkable.

Initially on arrival to ___ per ED resident and collateral 
from
family at bedside she is now close to her baseline per family.
She is able to perform days of the week, oriented to date, 
place,
person and situation. Denies fevers, chills, numbness, weakness,
rash, chest pain, SOB. abd pain and neck pain are at baseline.
She completed her course of ertapenem (ended ___ without
issues and per family with good resolution of her cellulitis. 

 
In the ED, vital signs were: 
97.6 84 104/58 16 96% RA 

- Exam notable for:  
General: pt eating oreos and pbj. c-collar in place (for 
cervical
fx sustained in ___ after falling down stairs)

Focused Neurologic Exam: able to recite days of week backwards,
AAOx3, normal CN, normal sensation and strength in extremities,
abd tender but per pt baseline. 

- Labs were notable for: Hb 6.6

- Studies performed include: none
 
- Patient was given:
___ 01:22 PO/NG HYDROmorphone (Dilaudid) 1 mg
___  
___ 01:22 PO/NG Apixaban 5 mg ___  
___ 01:22 PO DULoxetine 60 mg ___  
___ 01:22 PO Rosuvastatin Calcium 10 mg 
___

On the floor during patient is attentive to speaker but easily
distracted when questions regarding how she came to be in the
hospital today are brought up. Brings up home life related to
husband's children. He admits it is a "difficult situation at
home right now." She also endorses feeling trapped as it relates
to getting outside. Husband states that she was trying to leave
the house in t shirt and underwear. She becomes visibly upset.
Tearful but agitated. "I just don't want to be here in the
hospital." When asked how she did indeed get here she asked "who
of my children called you to get me here." I reminded her that
she went to ___ first. This did not seem to sink in entirely,
but it she was easily calmed down. 

In discussion of BM hx she had small firm BM this AM. Last prior
was >1 day "?2 days" ago. Husband thinks 2 days but cannot
characterize quality or quantity. Her report is unreliable. "
 
Past Medical History:
As per admitting MD:
"ONCOLOGIC HISTORY: ___ is a ___ woman
previously treated for, chronic pancreatitis and surveilled with
endoscopic ultrasound and CT scans as well as a history of
fibromyalgia, chronic back pain on opiates, and an type 2
diabetes mellitus who presented to the emergency department at
___ ___ with 10 days of epigastric pain
radiating to her mid back and fever.  This was associated with
pale stools jaundice and an unintentional 40 pound weight loss
over the past year.  Her bilirubin was 14, and CT raise concern
for biliary dilatation.  She was transferred to ___ where she
underwent CT angiogram.  The study identified a mass in the head
of the pancreas with associated pancreatic ductal dilatation   
As
well as enlarged peripancreatic and retroperitoneal
lymphadenopathy. She underwent endoscopic ultrasound and ERCP
with biliary stent placement.  Brushings and fine-needle biopsy
from the common bile duct were positive for adenocarcinoma.  Her
course was complicated by cholangitis and E. coli bacteremia for
which she is completing a 14 day course of IV antibiotics at the
___.  CT scan nodularity
concerning for metastatic disease and a laparoscopic evaluation
is recommended for further assessment.  She underwent 
laparoscopy
with biopsy negative for metastatic disease.

Decision was made to pursue initial chemotherapy with FOLFOX
consideration uptitration to FOLFIRINOX.  We will also consider
radiation therapy with CyberKnife SBRT.

C1D1 FOLFOX ___

Her course has been complicated by two prolonged
hospitalizations, first with cholangitis, liver abscess, Ecoli
bacteremia, and PE, and then s/p mechanical fall with C2 
fracture
and increased opiate reliance. 

Past Medical History:  
=====================
PAST MEDICAL HISTORY:
1.  Asthma with seasonal allergies
2.  Tobacco use
3.  History of lymphedema
4.  History of non-insulin-dependent type 2 diabetes mellitus
5.  History of chronic pancreatitis
6.  GERD
7.  History of UTI
8.  History of pneumonia
9.  History of urinary incontinence status post urethral surgery
___.  Depression/anxiety/panic disorder
11.  Fibromyalgia
13.  Status post back and neck surgery 
___.  h/o periorbital cellulitis
15.  Status post C-section Ã—3
16.  Status post hysterectomy for endometriosis
17.  Status post cholecystectomy
___.  Status post umbilical hernia repair
19.  Pulmonary Embolism
20.  C2 fracture s/p fall
___.  h/o liver abscess and E coli bacteremia
22.  h/o ab wall cellulitis (sn ertapenem); note that lovenox 
inj
thought to ?contribute so AC changed to apixaban 

-Exploratory laparotomy with biopsy of suspicious omental and
liver lesions did not reveal metastatic disease. 
-hernia repair"
 
Social History:
___
Family History:
As per admitting MD:
"The patient's father died at ___ years with
pancreatitis.  Her mother died at ___ years with diabetes 
mellitus
and congestive heart failure.  She had 11 siblings.  2 brothers
and 2 sisters have been treated for pancreatic cancer at ages 
___,
___, ___, and ___.  A nephew was also treated for pancreatic cancer
at ___ years.  A niece died following resection of a benign
pancreatic disease"
 
Physical Exam:
Admission:
GENERAL: Disheleved, in hard collar. AOx 2 (self, 
___
difficult with attention to finish simple orientation exam 
HEENT: In C collar. EOMI, PERRLA.  No conjunctival pallor, 
sclera
icterujs. Dry mucous membranes. Oropharynx w/o injection,
exudate. poor dentition. 
NECK: in hard collar.  
CARDIAC: RRR no m/g/r. No JVD
LUNGS: CTA B/L. No wheeze/rhonchi/rales
BACK: no spinous process tenderness. no CVA tenderness.  
ABDOMEN: +BS, no HSM. minimal epigastric and LLQ tenderness w/o
rebound or guarding.
EXTREMITIES: No clubbing, cyanosis, or edema. Symmetric in
appearance. warm. Pulses DP/Radial 2+ bilaterally.  
SKIN: No evidence of ulcers, rash or lesions suspicious for
malignancy  
NEUROLOGIC: 
CN2-12 intact. 
___ strength througout. Normal sensation. No asterixis. 

Discharge:
GENERAL: well appearing, sitting in bed, smiling, pleasant, AOx3
EYES: PERRLA, anicteric
HEENT: OP clear, MMM
NECK: supple
LUNGS: CTA b/l no wheezes/rales/rhonchi, normal RR, speaks in 
full sentences
CV: RRR no m/r/g, normal S1/S2, normal distal perfusion
ABD: soft, ND, normo-active BS, nontender
GENITOURINARY: no foley 
EXT: warm, dry, no edema or deformity
SKIN: warm/dry, no rash
NEURO: AOx3, fluent speech, able to do days of week backwards, 
able to speak in detail about admission and issues at home, 
completely coherent
ACCESS: port in right chest, dressing c/d/i
 
Pertinent Results:
Admission:
___ 12:49AM BLOOD WBC-10.7* RBC-2.47* Hgb-6.6* Hct-22.1* 
MCV-90 MCH-26.7 MCHC-29.9* RDW-16.6* RDWSD-53.3* Plt Ct-78*#
___ 09:40AM BLOOD ___ PTT-27.4 ___
___ 12:49AM BLOOD Glucose-134* UreaN-7 Creat-0.6 Na-145 
K-3.3 Cl-106 HCO3-27 AnGap-12
___ 12:49AM BLOOD Calcium-7.6* Phos-2.4* Mg-1.8
___ 09:40AM BLOOD calTIBC-316 ___ Ferritn-185* 
TRF-243

Discharge:

___ 10:18PM BLOOD WBC-7.8 RBC-2.95* Hgb-7.9* Hct-25.9* 
MCV-88 MCH-26.8 MCHC-30.5* RDW-17.3* RDWSD-53.6* Plt Ct-95*
___ 10:18PM BLOOD ___ PTT-26.6 ___
___ 10:18PM BLOOD Glucose-148* UreaN-8 Creat-0.6 Na-146 
K-3.4 Cl-106 HCO3-29 AnGap-11
___ 10:18PM BLOOD ALT-10 AST-22 AlkPhos-173* TotBili-0.2
___ 10:18PM BLOOD Calcium-8.2* Phos-4.1 Mg-2.4

Studies:
___ notable for CXR w/o active pulm process, CT
Ab/Pelvis with commentary of no acute new process but remarking
on prior Pancreatic head mass/tumor with peripancreatic and
retroperitoneal lymphadenopathy. Biliary stent in satisfactory 
position. As well as constipation/large stool burden. A CT of 
Head is unremarkable.

 
Brief Hospital Course:
___ PMH Chronic pancreatitis, fibromyalgia, chronic back pain, 
NIDDM, anxiety, depression, borderline resectable pancreatic 
adenocarcinioma (on FOLFOX), recurrent E.coli bloodstream 
infections, liver abscess, PE, cervical fracture, who was 
recently admitted for abdominal wall cellulitis (completed 
course), who now presents with AMS which appears to be delirium 
possibly ___ polypharmacy

#Acute Delirium
As per admitting MD conversation with family appears to have 
fluctuating course with near resolution by time of admission. 
Was inattentive on exam and slightly sedated which was 
consistent with delirium likely ___ oversedation/polypharmacy 
___ narcotics/benzodiazepines. No focal neuro deficits to 
suggest stroke or lesion ___ her malignancy). CTH negative for 
bleed. TSH wnl. UA in ED not suggestive of UTI and no fever or 
localizing symptoms to suggest infection.

Fentanyl patch was continued but dilaudid was decreased from ___ 
to 2mg as needed for breakthrough pain. While 2 mg is small dose 
for patient on such a large dose of fentanyl she tolerated such 
change without any increase in her pain symptomatology, but was 
more alert and mental status returned to baseline. Xanax dose 
was also decreased by half. By time of discharge patient had 
clear thought process, could adequately describe in detail why 
she was brought to the hospital, and denied any mood disorders 
or concerns regarding safety at home. I then spoke with 
patient's husband and sister who both agreed that patient 
returned to baseline and felt comfortable taking her home. Case 
mgmt. noted that only way to get increased home help for patient 
was to have elder services referral which may take weeks and 
could not be done in the hospital on a weekend. Patient and 
family instructed to call three different agencies to inquire, 
which are listed in discharge worksheet (patient instructions). 
SW in ___ clinic should assist with this.

Transitional Issues:
1. Patient had anemia/thrombocytopenia during stay which was 
likely ___ recent chemotherapy. Pt was given 1U pRBC during 
hospitalization. She should have counts re-checked at next 
outpatient appointment on ___
2. Patient should have pain/anxiety symptomatology and mental 
status re-assessed at next outpatient visit, with pain/anxiety 
medications adjusted as needed
3. Patient would benefit from further attempts as an outpatient 
to obtain more home services for patient.
4. Patient had blood cultures pending at time of discharge which 
need to be followed up
5. Pt with ongoing constipation, needs to be trended at next f/u 
apt
6. Case mgmt. noted that only way to get increased home help for 
patient was to have elder services referral which may take weeks 
and could not be done in the hospital on a weekend. Patient and 
family instructed to call three different agencies to inquire, 
which are listed in discharge worksheet (patient instructions). 
SW in ___ clinic should assist with this.
 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Apixaban 5 mg PO BID 
2. Creon ___ CAP PO QIDWMHS 
3. ALPRAZolam 1 mg PO TID:PRN anxiety 
4. Docusate Sodium 100 mg PO BID constipation 
5. DULoxetine 60 mg PO BID 
6. Fentanyl Patch 100 mcg/h TD Q72H 
7. HYDROmorphone (Dilaudid) ___ mg PO Q3H:PRN Pain - Moderate 
8. Lactulose 15 mL PO PRN constipation 
9. Ondansetron 8 mg PO Q8H:PRN nausea 
10. Senna 8.6 mg PO BID:PRN constipation 
11. Simethicone 40-80 mg PO QID:PRN bloating 
12. Multivitamins W/minerals 1 TAB PO DAILY 
13. dexlansoprazole 30 mg oral BID 
14. Ipratropium-Albuterol Inhalation Spray 1 INH IH Q6H:PRN 
shortness of breath 
15. Prochlorperazine 10 mg PO Q6H:PRN nausea 
16. Acetaminophen 1000 mg PO Q8H:PRN Pain - Mild 
17. Calcium 500 + D (D3) (calcium carbonate-vitamin D3) 500 
mg(1,250mg) -125 unit oral DAILY 

 
Discharge Medications:
1.  ALPRAZolam 0.5 mg PO TID:PRN anxiety  
2.  HYDROmorphone (Dilaudid) 2 mg PO Q3H:PRN Pain - Moderate  
3.  Acetaminophen 1000 mg PO Q8H:PRN Pain - Mild  
4.  Apixaban 5 mg PO BID  
5.  Calcium 500 + D (D3) (calcium carbonate-vitamin D3) 500 
mg(1,250mg) -125 unit oral DAILY  
6.  Creon ___ CAP PO QIDWMHS  
7.  dexlansoprazole 30 mg oral BID  
8.  Docusate Sodium 100 mg PO BID constipation  
9.  DULoxetine 60 mg PO BID  
10.  Fentanyl Patch 100 mcg/h TD Q72H  
11.  Ipratropium-Albuterol Inhalation Spray 1 INH IH Q6H:PRN 
shortness of breath  
12.  Lactulose 15 mL PO PRN constipation  
13.  Multivitamins W/minerals 1 TAB PO DAILY  
14.  Ondansetron 8 mg PO Q8H:PRN nausea  
15.  Prochlorperazine 10 mg PO Q6H:PRN nausea  
16.  Senna 8.6 mg PO BID:PRN constipation  
17.  Simethicone 40-80 mg PO QID:PRN bloating  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Delirium ___ polypharmacy
borderline resectable pancreatic adenocarcinioma (on FOLFOX)
fibromyalgia
chronic back pain

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Ms ___,

It was a pleasure taking care of you at ___. You were brought 
to the hospital by your family as they were concerned that you 
were confused, which may have been due to too much pain 
medications, as your mental status returned back to normal once 
the dose of your dilaudid was decreased. You should continue 
this lower dose at home. Your Xanax dose was also decreased 
because it appears it was too strong for you. If you feel that 
it is insufficient to control your pain or anxiety, please call 
your outpatient provider for further instructions before 
increasing the dose on your own

As per our social worker, you may be able to get additional 
services through the ___ elder care program which is only open 
___ to ___ for inquires. 

Please call the following agencies to inquire:
1. ___ Elder Services ___
2. Elderly Commission ___
3. Executive office of Elder Affairs ___
 
Followup Instructions:
___